US05891889
Preparation of 4-{5-[4-Methoxymethyl-4-(3-trifluoromethoxybenzyl)piperidine-1-ylmethyl]-2-methylimidazol-1-ylmethyl}benzonitrile hydrochloride salt
The title compound was prepared using the protocol described in Example 30, Step A-C using 3-(trifluoromethoxy)benzyl bromide in Step B, and in Example 52, Step B-E substituting N-tert-butoxycarbonyl-4-(3-methylbenzyl)-4-hydroxymethylpiperidine with N-tert-butoxy-carbonyl-4-(3-trifluoromethoxybenzyl)-4-hydroxymethylpiperidine in Step B, and substituting 1-(4-cyanobenzyl)-5-chloromethyl-imidazole hydro-chloride salt with 1-(4-cyanobenzyl)-5-chloromethyl-2-methylimidazole hydrochloride salt in Step E.

reactant | 3-(trifluoromethoxy)benzyl bromide | FC(OC=1C=C(CBr)C=CC1)(F)F | C8H6BrF3O
reactant | N-tert-butoxy-carbonyl-4-(3-trifluoromethoxybenzyl)-4-hydroxymethylpiperidine | C(C)(C)(C)ON1C(CC(CC1)(CO)CC1=CC(=CC=C1)OC(F)(F)F)=C=O | C19H24F3NO4
reactant | 1-(4-cyanobenzyl)-5-chloromethyl-2-methylimidazole hydrochloride salt | Cl.C(#N)C1=CC=C(CN2C(=NC=C2CCl)C)C=C1
product | 4-{5-[4-Methoxymethyl-4-(3-trifluoromethoxybenzyl)piperidine-1-ylmethyl]-2-methylimidazol-1-ylmethyl}benzonitrile hydrochloride salt | Cl.COCC1(CCN(CC1)CC1=CN=C(N1CC1=CC=C(C#N)C=C1)C)CC1=CC(=CC=C1)OC(F)(F)F | InChI=1S/C28H31F3N4O2.ClH/c1-21-33-17-25(35(21)18-23-8-6-22(16-32)7-9-23)19-34-12-10-27(11-13-34,20-36-2)15-24-4-3-5-26(14-24)37-28(29,30)31;/h3-9,14,17H,10-13,15,18-20H2,1-2H3;1H
